US09403813B2
(S)-2-Carbamoyl-azetidine-1-carboxylic acid tert-butyl ester (C-1)
TEA (10.4 mL, 74.5 mmol) was added to a 0° C. solution of Boc-L-azetidine-2-carboxylic acid (7.50 g, 37.3 mmol) in THF (85 mL) and the resulting mixture was stirred at 0° C. for 20 min, before ethyl chloroformate (3.82 mL, 39.1 mmol) was added (exotherm). The rxn mixture was stirred at 0° C. for 20 min, then 25% aq. NH3 (62.7 mL, 447 mmol) in THF (25 mL) was added and the resulting mixture was allowed to reach rt and stirring was continued at rt for 45 min. The mixture was concentrated in vacuo to remove the solvent, the residue was taken up in DCM and water, the org. layer was separated and the inorg. layer was extracted with DCM (2×). The combined org. layers were dried (MgSO4), filtered and concentrated in vacuo to yield the title compound C-1 as a white solid which was used further without purification. LC-MS A: tR=0.52 min; [M+H]+=201.27.

reactant | Boc-L-azetidine-2-carboxylic acid | 37.3 mmol, 7.50 g | CC(C)(C)OC(=O)N1CC[C@H]1C(=O)O | C9H15NO4
reactant | ethyl chloroformate | 39.1 mmol, 3.82 mL | ClC(=O)OCC | C3H5ClO2
reactant | NH3 | 447 mmol, 62.7 mL | N | H3N
solvent | THF | 85 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | (S)-2-Carbamoyl-azetidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](CC1)C(N)=O | C9H16N2O3
